US08461328B2
4-benzamido-1-ethyl-3-fluoro-pyridinium iodide
A solution of N-(3-fluoro-pyridin-4-yl)-benzamide (1.95 kg, 9.0 mol) in anhydrous dimethylformamide (10 L) was placed under nitrogen atmosphere and heated at 70° C. The heated solution was charged with iodoethane via dropwise addition (1.55 kg/0.795 L, 9.9 mol) with temperature monitoring. The addition caused an exoterm that raised the internal reactor temperature to 110° C. for the duration of the addition. A temperature of 100° C. was maintained for a further two hours before the reaction was cooled to room temperature. The reaction mixture was poured into ethyl acetate (50 L, pre-cooled to 5° C.) and stirred for one hour. The precipitated solid was collected by filtration and washed with ethyl acetate (3×10 L). The yellowish solid 4-benzamido-1-ethyl-3-fluoro-pyridinium iodide was dried in a tray vacuum oven at 50° C., yielding 3.25 kg. (97%). 1H NMR (400 MHz, DMSO): δ 11.37 (1H, s), 9.41 (1H, dd, J=5.86, 1.56 Hz), 8.88 (1H, dd, J=7.03, 1.56 Hz), 8.73 (1H, t, J=7.42 Hz), 7.99 (2H, d, J=8.20 Hz), 7.72 (1H, t, J=7.42 Hz), 7.61 (2H, t, J=8.20 Hz), 4.52 (2H, q, J=7.42 Hz), 1.54 (3H, t, J=7.42 Hz).

reactant | N-(3-fluoro-pyridin-4-yl)-benzamide | 9.0 mol, 1.95 kg | FC=1C=NC=CC1NC(C1=CC=CC=C1)=O | C12H9FN2O
reactant | iodoethane | ICC | C2H5I
reactant | ethyl acetate | 50 L | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 L | CN(C=O)C | C3H7NO
product | 4-benzamido-1-ethyl-3-fluoro-pyridinium iodide | [I-].C(C1=CC=CC=C1)(=O)NC1=C(C=[N+](C=C1)CC)F | InChI=1S/C14H13FN2O.HI/c1-2-17-9-8-13(12(15)10-17)16-14(18)11-6-4-3-5-7-11;/h3-10H,2H2,1H3;1H
